US06599902B2
Synthesis of 3-[1-[4-((S)-2-Cyclopropylaminomethyl-pyrrolidine-1-carbonyl)-3,5-dimethyl-1H-pyrrol-2-yl]-meth-(Z)-ylidene]-5-phenylmethanesulfonyl-1,3-dihydro-indol-2-one
A mixture of 5-phenylmethanesulfonyl-1,3-dihydro-indol-2-one (27 mg), 4-((S)-2-cyclopropylaminomethyl-pyrrolidine-1-carbonyl)-3,5-dimethyl-1H-pyrrole-2-carbaldehyde (25 mg) and piperidine (1 drop) in ethanol (2mL) was stirred at rt for 4 hours, the precipitate was collected by vacuum filtration and purified on a silica gel column to give the titled compound.

reactant | 5-phenylmethanesulfonyl-1,3-dihydro-indol-2-one | 27 mg | C1(=CC=CC=C1)CS(=O)(=O)C=1C=C2CC(NC2=CC1)=O | C15H13NO3S
reactant | 4-((S)-2-cyclopropylaminomethyl-pyrrolidine-1-carbonyl)-3,5-dimethyl-1H-pyrrole-2-carbaldehyde | 25 mg | C1(CC1)NC[C@H]1N(CCC1)C(=O)C=1C(=C(NC1C)C=O)C | C16H23N3O2
catalyst | piperidine | 1 drop | N1CCCCC1 | C5H11N
solvent | ethanol | 2mL | C(C)O | C2H6O
product | 3-[1-[4-((S)-2-Cyclopropylaminomethyl-pyrrolidine-1-carbonyl)-3,5-dimethyl-1H-pyrrol-2-yl]-meth-(Z)-ylidene]-5-phenylmethanesulfonyl-1,3-dihydro-indol-2-one | C1(CC1)NC[C@H]1N(CCC1)C(=O)C=1C(=C(NC1C)\C=C\1/C(NC2=CC=C(C=C12)S(=O)(=O)CC1=CC=CC=C1)=O)C | C31H34N4O4S
